US07713993B2
Synthesis of 7-(4-fluorophenyl)-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-6,7-dihydro-5H-pyrrolo[1,2-b][1,2,4]triazol-7-ol
Sodium hydrate (containing mineral oil at 40%, 15 mg) was added to a solution of 3-[3-chloro-1-(4-fluorophenyl)propyl]-5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-4H-[1,2,4]triazole (86 mg) in DMF (1 mL), and the reaction solution was stirred at room temperature for 13 hours. Ethyl acetate and saturated sodium bicarbonate water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: ethyl acetate) to obtain 3 mg of the title compound. The property values of the compound are as follows.

reactant | Sodium hydrate | 15 mg | O.[Na]
reactant | 3-[3-chloro-1-(4-fluorophenyl)propyl]-5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-4H-[1,2,4]triazole | 86 mg | ClCCC(C1=CC=C(C=C1)F)C1=NN=C(N1)\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C24H23ClFN5O
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 7-(4-fluorophenyl)-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-6,7-dihydro-5H-pyrrolo[1,2-b][1,2,4]triazol-7-ol | 3 mg | FC1=CC=C(C=C1)C1(CCN2N=C(N=C21)\C=C\C2=CC(=C(C=C2)N2C=NC(=C2)C)OC)O | C24H22FN5O2
